US03987160
The disodium salt of 2-hydroxy-3,5-dimethylbenzoic acid (21 g.) and dimethyl sulphate (92 ml.) were stirred together at 140°-150° C. for 2.5 hours. After standing overnight, the mixture was added to a solution of sodium hydroxide (40 g.) in water (250 ml.), and the mixture stirred and heated on the steam-bath for 1 hour. Charcoal was added, the mixture was filtered and the filtrate was cooled, acidified with concentrated hydrochloric acid, and maintained at 0° C. The solid which separated was filtered off and recrystallised from aqueous ethanol to give 2-methoxy-3,5-dimethylbenzoic acid (14.7 g.), m.p. 97°-98° C.

reactant | disodium | [Na][Na] | 2Na
reactant | 2-hydroxy-3,5-dimethylbenzoic acid | 21 g | OC1=C(C(=O)O)C=C(C=C1C)C | C9H10O3
reactant | dimethyl sulphate | 92 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | Charcoal | C | CH4
solvent | water | 250 ml | O | H2O
product | 2-methoxy-3,5-dimethylbenzoic acid | 14.7 g | COC1=C(C(=O)O)C=C(C=C1C)C | C10H12O3
